US09255094B2
Preparation of 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-phenylethanone (Compound No. 1-35)
2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 5 mmol) was dissolved in NMP (1 mL). KOH (280 mg, 5 mmol) was then added to it, followed by addition of 2-bromoacetophenone (208 mg, 1 mmol). The reaction was kept overnight at RT and was monitored by TLC and LC/MS. The reaction was quenched by adding water, and the compound extracted using EtOAc, which was washed with water (2-3×). The organic layer was dried over sodium sulfate and then concentrated to yield 10 mg of dark brown crude oil, which was then purified by column chromatography using 100-200 mesh silica in 5% MeOH:DCM. 1HNMR (CD3OD, TFA salt) d (ppm): 8.15 (m, 1H), 7.70 (m, 1H), 7.60 (m, 2H), 7.28 (d, 1H), 7.20 (m, 1H), 7.0 (m, 1H), 5.80 (m, 2H), 4.70 (m, 1H), 4.40 (m, 1H), 4.20 (m, 1H), 3.80 (m, 1H), 3.60 (m, 2H), 3.10 (s, 1H), 2.40 (s, 3H), 2.30 (m, 1H), 2.0 (m, 1H), 1.80 (m, 1H).

reactant | 2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 5 mmol, 100 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | KOH | 5 mmol, 280 mg | [OH-].[K+]
reactant | 2-bromoacetophenone | 1 mmol, 208 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-phenylethanone | 10 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(=O)C2=CC=CC=C2)CC1 | C21H22N2O
